US09079866B2
A mixture of tert-butyl (1-((2-bromobenzyl)sulfonyl)piperidin-4-yl)carbamate (500 mg, 1.15 mmol) in HCl methanol (6 N, 20 mL) was stirred at rt for 24 hours, and then concentrated to dryness to give 1-(2-bromobenzylsulfonyl)piperidin-4-amine.HCl (400 mg, 94%), which was directly used for next step without any further purification. MS (ESI): mass calcd. for C14H19BrN2O3S, 332.02; m/z found, 332.9 [M+H]+.

reactant | tert-butyl (1-((2-bromobenzyl)sulfonyl)piperidin-4-yl)carbamate | 1.15 mmol, 500 mg | BrC1=C(CS(=O)(=O)N2CCC(CC2)NC(OC(C)(C)C)=O)C=CC=C1 | C17H25BrN2O4S
solvent | HCl methanol | 6 N, 20 mL | CO.Cl
product | 1-(2-bromobenzylsulfonyl)piperidin-4-amine | BrC1=C(CS(=O)(=O)N2CCC(CC2)N)C=CC=C1 | C12H17BrN2O2S
